US07842694B2
3-{[5-(Azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-5-({(1S)-2-[(difluoromethyl)oxy]-1-methylethyl}oxy)-N-(1-methyl-1H-pyrazol-3-yl)benzamide
DIPEA (0.41 mL, 2.33 mmol) was added to a mixture of 5-[(3-({(1S)-2-[(difluoromethyl)oxy]-1-methylethyl}oxy)-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyrazine-2-carboxylic acid (0.27 g, 0.58 mmol), azetidine hydrochloride (109 mg, 1.17 mmol) and HATU (466 mg, 1.22 mmol) in DMF (5 mL) and stirred at RT for 24 hours. Ethyl acetate (40 mL) was added and the organics washed with water (2×30 mL), brine (30 mL), dried (MgSO4), filtered and concentrated in vacuo to give a yellow oil. The residue was chromatographed on silica, eluting with 0-5% methanol in ethyl acetate, to give the desired compound (124 mg).

reactant | DIPEA | 2.33 mmol, 0.41 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-[(3-({(1S)-2-[(difluoromethyl)oxy]-1-methylethyl}oxy)-5-{[(1-methyl-1H-pyrazol-3-yl)amino]carbonyl}phenyl)oxy]pyrazine-2-carboxylic acid | 0.58 mmol, 0.27 g | FC(OC[C@H](C)OC=1C=C(C=C(C1)C(=O)NC1=NN(C=C1)C)OC=1N=CC(=NC1)C(=O)O)F | C20H19F2N5O6
reactant | azetidine hydrochloride | 1.17 mmol, 109 mg | Cl.N1CCC1
reactant | HATU | 1.22 mmol, 466 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 3-{[5-(Azetidin-1-ylcarbonyl)pyrazin-2-yl]oxy}-5-({(1S)-2-[(difluoromethyl)oxy]-1-methylethyl}oxy)-N-(1-methyl-1H-pyrazol-3-yl)benzamide | 124 mg | N1(CCC1)C(=O)C=1N=CC(=NC1)OC=1C=C(C(=O)NC2=NN(C=C2)C)C=C(C1)O[C@H](COC(F)F)C | C23H24F2N6O5
